US05270313
A solution of 510 mg of 4,6-dichloro-5-(p-methoxyphenyl)pyrimidine and 680 mg of p-methoxybenzenesulfonamide potassium in 3 ml of dimethylformamide was heated at 130° C. for 1 hour. After working-up the reaction mixture, there were obtained 690 mg of N-[6-chloro-5-(p-methoxyphenyl)-4-pyrimidinyl]-p-methoxybenzenesulfonamide, melting point 165°-167° C.

reactant | 4,6-dichloro-5-(p-methoxyphenyl)pyrimidine | 510 mg | ClC1=NC=NC(=C1C1=CC=C(C=C1)OC)Cl | C11H8Cl2N2O
reactant | p-methoxybenzenesulfonamide potassium | 680 mg | [K].COC1=CC=C(C=C1)S(=O)(=O)N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-[6-chloro-5-(p-methoxyphenyl)-4-pyrimidinyl]-p-methoxybenzenesulfonamide | 690 mg | ClC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C18H16ClN3O4S
